US05358947
5-Amino-3-phenyl-1H-pyrazole-1-carboxamide
To a stirred solution of 6.0 g of semicarbazide hydrochloride in 100 ml of ethyl alcohol is added 2.8 g of sodium methoxide at room temperature. The reaction mixture is stirred for 10 minutes and 7.0 g of benzoylacetonitrile added. The reaction mixture is heated at reflux for 1 hour, cooled and concentrated in vacuo to a yellow solid. The yellow solid is suspended in water, filtered and dried. The dried solid is suspended in 100 ml of ethyl alcohol and 10 ml of triethylamine followed by heating at reflux for 1 hour. The reaction mixture is cooled and the volatiles removed in vacuo to a residue which is suspended in water, filtered, washed with water and dried to give 5.0 g of the desired product as a solid, m.p. 255° C.

reactant | semicarbazide hydrochloride | 6.0 g | Cl.NNC(=O)N
reactant | sodium methoxide | 2.8 g | C[O-].[Na+]
reactant | benzoylacetonitrile | 7.0 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 5-Amino-3-phenyl-1H-pyrazole-1-carboxamide | 5.0 g | NC1=CC(=NN1C(=O)N)C1=CC=CC=C1 | C10H10N4O
